US09102614B2
A solution of [1-(4-chloro-phenyl)-5-methoxy-3-methyl-naphthalen-2-yl]-hydroxy-acetic acid ethyl ester (23 mg) and perchloric acid, 70% (3 μL) in tert-butyl acetate (1 mL) was stirred at room temperature for 2 h. After 2 h, the reaction had apparently stalled, so 3 μL additional perchloric acid was added. After 2 additional hours, no further conversion was observed (LCMS analysis). Saturated sodium bicarbonate solution was added and the mixture was extracted with ethyl acetate (3×). The combined organic layer was dried (Na2SO4), and concentrated. The crude mixture was purified by flash column chromatography to give tert-butoxy-[1-(4-chloro-phenyl)-5-methoxy-3-methyl-naphthalen-2-yl]-acetic acid ethyl ester (9 mg) plus 7 mg of recovered starting material. The recovered starting material was re-subjected to similar reaction conditions to yield an additional 3 mg of desired. 1H-NMR: 400 MHz, (CDCl3) δ: 8.10 (s, 1H), 7.39-7.48 (m, 3H), 7.25 (s, 1H), 7.17 (app t, 1H), 6.78 (app t, 2H), 5.09 (s, 1H), 4.06-4.20 (m, 2H), 3.99 (s, 3H), 2.61 (s, 3H), 1.185 (t, 3H), 0.98 (s, 9H).

reactant | [1-(4-chloro-phenyl)-5-methoxy-3-methyl-naphthalen-2-yl]-hydroxy-acetic acid ethyl ester | 23 mg | C(C)OC(C(O)C1=C(C2=CC=CC(=C2C=C1C)OC)C1=CC=C(C=C1)Cl)=O | C22H21ClO4
reactant | perchloric acid | Cl(=O)(=O)(=O)O | ClHO4
reactant | perchloric acid | 3 μL | Cl(=O)(=O)(=O)O | ClHO4
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | tert-butyl acetate | 1 mL | C(C)(=O)OC(C)(C)C | C6H12O2
product | tert-butoxy-[1-(4-chloro-phenyl)-5-methoxy-3-methyl-naphthalen-2-yl]-acetic acid ethyl ester | 9 mg | C(C)OC(C(C1=C(C2=CC=CC(=C2C=C1C)OC)C1=CC=C(C=C1)Cl)OC(C)(C)C)=O | C26H29ClO4
